US08486967B2
a) 1-(Pyrimidin-4-yl)piperidin-4-amine
To a solution (1-pyrimidin-4-yl-piperidin-4-yl)-carbamic acid tert-butyl ester (1.00 g, 3.59 mmol) in dichloromethane (16 mL) was added HCl (2 M in diethylether, 8.98 mL, 18.0 mmol) and the reaction mixture was stirred at room temperature for 4 hours. The mixture was then diluted with NaOH (2 N) at 0° C. and extracted with dichloromethane. The combined organic extracts were then dried over sodium sulfate and filtered to afford the title compound (511 mg, 80%) as a light yellow solid.

reactant | (1-pyrimidin-4-yl-piperidin-4-yl)-carbamic acid tert-butyl ester | 3.59 mmol, 1.00 g | C(C)(C)(C)OC(NC1CCN(CC1)C1=NC=NC=C1)=O | C14H22N4O2
reactant | HCl | 18.0 mmol, 2 M, 8.98 mL | Cl | ClH
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
solvent | NaOH | 2 N | [OH-].[Na+]
product | 1-(Pyrimidin-4-yl)piperidin-4-amine | 511 mg, 80% | N1=CN=C(C=C1)N1CCC(CC1)N | C9H14N4
